US07692017B2
(±)-2-(2,3-Dihydroxypropoxy)-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile, enantiomer A
To a solution of 2-(allyloxy)-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile (140 mg, 0.419 mmol) in 10 mL of tBuOH:THF:water (10:3:1) was added N-methylmorpholine N-oxide (49 mg, 0.42 mmol), followed by a solution of OsO4 (106 mg, 0.42 mmol) in water (ca. 0.5 mL). After stirring for 18 hours, the reaction was diluted with EtOAc, washed with saturated NaHCO3 solution, 10% citric acid solution and brine, and the organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue (144 mg) was subjected to preparative chiral HPLC through a Chiralcel OD column (85% hexanes containing 0.1% diethylamine:EtOH). The first eluting peak was collected and concentrated in vacuo to provide the titled product. 1H-NMR (500 MHz, CDCl3) δ 7.81 (d, J=9.0 Hz, 1H), 7.70 (ddd, J=8.1, 8.1, 5.6 Hz, 1H), 7.44 (dd, J=9.0, 2.9 Hz, 1H), 7.30 (ddd, J=8.6, 2.4, 1.0 Hz, 1H), 7.25 (m, 1H), 7.19 (br d, J=8.6 Hz, 1H), 6.83 (d, J=2.9 Hz, 1H), 4.68-4.76 (m, 2H), 4.19 (m, 1H), 3.84 (dd, J=11.6, 4.1 Hz, 1H), 3.79 (dd, J=11.6, 5.4 Hz, 1H), 3.74 (s, 3H) ppm. HRMS (ES) exact mass calculated for C20H18FN2O4 (M+H+): 369.1245. Found 369.1195.

reactant | 2-(allyloxy)-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile | 0.419 mmol, 140 mg | C(C=C)OC1=NC2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC | C20H15FN2O2
reactant | N-methylmorpholine N-oxide | 0.42 mmol, 49 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tBuOH THF water | 10 mL | CC(C)(C)O.C1CCOC1.O
solvent | water | ca. 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | OsO4 | 0.42 mmol, 106 mg | O=[Os](=O)(=O)=O
product | (±)-2-(2,3-Dihydroxypropoxy)-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile | OC(COC1=NC2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC)CO | C20H17FN2O4
